US04837349
To a dichloromethane solution (1.0 ml) of palladium (II) acetate (8.0 mg, 0.04 mmol) and triethylamine (16 μl, 0.12 mmol), t-butyldimethylsilane (187 μl, 1.1 mmol) was added and the mixture was stirred for 15 minutes at room temperature in an argon atmosphere. To the resulting black suspension, a dichloromethane solution (1.0 ml) of N-allyloxycarbonylallylglycine methyl ester (150 mg, 0.75 mmol) was added and the mixture was stirred for an additional 20 hours. After a saturated aqueous solution of ammonium chloride was added to quench the reaction, extraction with ether was conducted and the ether layer was dried over anhydrous magnesium sulfate and filtered. By distilling off the solvent, N-t-butyldimethylsilyloxycarbonylallylglycine was obtained in an amount of 184 mg (yield, 90%). The physical data for this compound were in agreement with those reported in Examples 3 and 11.

reactant | triethylamine | 0.12 mmol, 16 μl | C(C)N(CC)CC | C6H15N
reactant | t-butyldimethylsilane | 1.1 mmol, 187 μl | C(C)(C)(C)[SiH](C)C | C6H16Si
reactant | N-allyloxycarbonylallylglycine methyl ester | 0.75 mmol, 150 mg | COC(CNCC=CC(=O)OCC=C)=O | C10H15NO4
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | palladium (II) acetate | 0.04 mmol, 8.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | N-t-butyldimethylsilyloxycarbonylallylglycine | [Si](C)(C)(C(C)(C)C)OC(=O)C=CCNCC(=O)O | C12H23NO4Si
